US04789680
16.9 g (0.1 mole) of 2,6-difluorobenzyl azide and 8.3 g (0.1 mole) of but-2-ynecarboxamide are heated in 20 ml of dioxane for 16 hours to 100° C. After removing the dioxane by evaporation, the desired isomer is separated by column chromatography, to give 1-(2,6-difluorobenzyl)-5-methyl-1H-1,2,3-triazole-4-carboxamide with a melting point of 208°-210° C. (recrystallisation from methanol).

reactant | 2,6-difluorobenzyl azide | 0.1 mole, 16.9 g | FC1=C(CN=[N+]=[N-])C(=CC=C1)F | C7H5F2N3
reactant | but-2-ynecarboxamide | 0.1 mole, 8.3 g | C(C#CC)C(=O)N | C5H7NO
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-(2,6-difluorobenzyl)-5-methyl-1H-1,2,3-triazole-4-carboxamide | FC1=C(CN2N=NC(=C2C)C(=O)N)C(=CC=C1)F | C11H10F2N4O
